US05434236
Synthesis of 1,5-Bis-(4'-Methoxycarbonylphenyl)-3-Pentanone.
A heterogeneous mixture of 71.7 g of 1,5-bis-(4'-methoxycarbonyl-phenyl)-1,4-pentadien-3-one, 3.8 grams of 5% Pd on carbon, and 650 mL of 2-propanol was prepared in a 1 L 3-necked flask. The mixture was stirred mechanically and heated to 50° C. The system was flushed with hydrogen, and hydrogen was then supplied on a continuous basis at about 20 psi. The hydrogen uptake was initially very rapid, but gradually slowed. When hydrogen uptake nearly ceased, the hydrogen source was removed. The vessel was heated to 75°-80° C. and purged thoroughly with nitrogen. The hot product was filtered through a steam-jacketed Buchner funnel which contained a pad of filter-aid. The hot filtrate immediately began to precipitate the product.

reactant | 1,5-bis-(4'-methoxycarbonyl-phenyl)-1,4-pentadien-3-one | 71.7 g | COC(=O)C1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)C(=O)OC)=O | C21H18O5
catalyst | Pd on carbon | 3.8 grams | [Pd] | Pd
solvent | 2-propanol | 650 mL | CC(C)O | C3H8O
product | 1,5-Bis-(4'-Methoxycarbonylphenyl)-3-Pentanone | COC(=O)C1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)C(=O)OC)=O | C21H22O5
